US07312241B2
A suspension of (3-methoxy-4-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol (1.9 g, 6.0 mmol) and MnO2 (9.1 g, 104.7 mmol) in CH2Cl2 (100 mL) was stirred for 2 days. The mixture was filtered through Celite and the Celite was washed with CH2Cl2. The filtrate was concentrated and the residue was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 95:5) to afford (3-methoxy-4-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanone (1.2 g, 64%) of yellow solid: 1H NMR (CDCl3) δ 7.87 (d, J=8 Hz, 1H), 7.50-7.46 (dd, J=2, 5.7 Hz, 2H), 7.36-7.30 (m, 2H), 6.93 (d, J=8 Hz, 1H), 4.01 (s, 3H), 3.98 (s, 3H), 3.96 (s, 3H).

reactant | (3-methoxy-4-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol | 6.0 mmol, 1.9 g | COC=1C=C(C=CC1[N+](=O)[O-])C(O)C1=CC(=C(C=C1)OC)OC | C16H17NO6
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 104.7 mmol, 9.1 g | O=[Mn]=O
product | (3-methoxy-4-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanone | 1.2 g, 64% | COC=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC(=C(C=C1)OC)OC | C16H15NO6
